US06191140B1
7-benzyl-10-(3-bromo-4-fluorophenyl)-3,4,6,7,8,10-hexahydro-2H-thiopyrano[3,2-b][1,7]naphthyridin-9(5H)-one 1,1-dioxide
A solution of N-benzylpiperidine-3,5-dione (Ziegler, J. Amer. Chem. Soc. (1973), 95, 7458-7464) (0.55 g, 2.5 mmol) in ethyl alcohol (5 mL) was treated with 2.0M ammonia in ethyl alcohol (1.25 mL, 2.5 mmol), stirred for 30 minutes in a sealed tube, treated with tetrahydrothiopyran-3-one-1,1-dioxide (0.36 g, 2.5 mmol), treated with 3-bromo-4-fluorobenzaldehyde (0.51 g, 2.5 mmol), stirred at 75° for 48 hours, cooled and concentrated. The residue was purified by flash chromatography over silica gel (5% ethanol/methylene chloride) to provide the title compound (0.50 g).

reactant | N-benzylpiperidine-3,5-dione | 2.5 mmol, 0.55 g | C(C1=CC=CC=C1)N1CC(CC(C1)=O)=O | C12H13NO2
reactant | ammonia | 2.0M | N | H3N
reactant | tetrahydrothiopyran-3-one-1,1-dioxide | 2.5 mmol, 0.36 g | S1(CC(CCC1)=O)(=O)=O | C5H8O3S
reactant | 3-bromo-4-fluorobenzaldehyde | 2.5 mmol, 0.51 g | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
solvent | ethyl alcohol | 5 mL | C(C)O | C2H6O
solvent | ethyl alcohol | 2.5 mmol, 1.25 mL | C(C)O | C2H6O
product | 7-benzyl-10-(3-bromo-4-fluorophenyl)-3,4,6,7,8,10-hexahydro-2H-thiopyrano[3,2-b][1,7]naphthyridin-9(5H)-one 1,1-dioxide | 0.50 g | C(C1=CC=CC=C1)N1CC(C=2C(C3=C(NC2C1)CCCS3(=O)=O)C3=CC(=C(C=C3)F)Br)=O | C24H22BrFN2O3S
